US08193234B2
Aqueous lithium hydroxide solution (1M, 2 eq) was added to a solution of ethyl 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetate (1 eq) in THF, ethanol and water, and stirred for 4 h. After concentrating, the residue was acidified with aqueous HCl solution (1N), diluted with water and filtered to afford 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetic acid.

reactant | lithium hydroxide | 1M, 2 eq | [OH-].[Li+]
reactant | ethyl 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetate | 1 eq | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SC(C(=O)OCC)(F)F | C18H12BrF2N3O2S
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)-2,2-difluoroacetic acid | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SC(C(=O)O)(F)F | C16H8BrF2N3O2S
